Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hypertensive urgency 
 
Major Surgical or Invasive Procedure:
___ - TTE

 
History of Present Illness:
___ with history of CABG, severe AS, AF on coumadin, CVA s/p 
PEG, removed one week ago, presents as a transfer from 
___ for chest pain radiating to the back. She was 
initially at ___ being evaluated for drainage from the 
gastrostomy site. While at ___, the patient developed severe 
chest pain ___ radiating to her back in the CT scanner. 
Patient was started on nitroglycerin, esmolol and morphine for 
treatment of her chest pain/HTN. She was hypertensive with an 
SBP 190's and treated esmolol and nitro. Her CP resolved and she 
has not had any further CP. She denies prior MI, no recent chest 
pain prior to today. Patient usually wears 3L O2 at home. 
 
In the ED initial vitals were: 20:43 ___ 98.3 95 127/70 RR18 
97%RA  
EKG: v-paced, IVCD, no e/o ischemia. Old ECG comparison: ___ 
___ (18:16) ECG with STD/TWI ___, III, AVF. Comparison 
(___) showed TWI ___, normal lead ___ labs: 
troponin <0.01 (1730), WBC 6.6, Hb 11.9, Hct 37.9, plt 228, INR 
2.3, Cr 0.57, lipase 66  Labs/studies notable for: trop <0.01, 
dig 0.6, u/a lg leuk, neg nitrite, 22 wbc, no bacteria, bnp ___ 
 

Cardiology was consulted and recommended observation with 
nuclear stress in AM per Cards. While awaiting stress overnight, 
patient became hypoxic ___ despite 6L NC exam consistent with 
pulm edema and likely CHF exacerbation. Got no IVF while in ED 
but did receive outside contrast load for CTA. Patient admitted 
to ___ service.  

CTA chest with no evidence of aortic dissection but with 
findings of pulmonary edema.  

Patient was given: 25mg po metoprolol tartrate, 5mg warfarin  
While in ED, patient noted to have 02 sat drop to 79% while 
ambulating, Patient placed on NRB and progressed to 100% after 
5min. CXR showed pulmonary edema. Prior to administration of 
40mg IV Lasix, patient reported ___ L chest pain and patient 
oxygenating 88% on 3L NC. Patient placed again on NRB 
temporarily - was given 40mg IV Lasix with improved oxygenation 
to 5L NC. She was given 5mg IV morphine with improvement in 
chest pain.  
Vitals on transfer: 03:33 97.7 HR60 RR20 122/44 96%5L NC  

On the floor, patient has no complaints and states breathing has 
returned to baseline. She denies any further chest pain or 
shortness of breath.  

ROS: Cardiac review of systems is notable for paroxysmal 
nocturnal dyspnea, 2 pillow orthopnea. She denies ankle edema, 
palpitations, syncope or presyncope.  
On review of systems denies hemoptysis, black stools or red 
stools. Denies recent fevers, chills or rigors. All of the other 
review of systems were negative except as noted above. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: +HTN  
2. CARDIAC HISTORY:  
-S/P valve replacement  
-CAD s/p stenting, PPM placed ___ year ago per sister?  

1. CABG ___ yrs ago in ___ when she presented with dyspnea and  

 was found to have 3 VD.  
2. PCIs (do not know culprit vessel) x 2, last one was ___ year 
ago  by her cardiologist to relieve symptoms of dyspnea.  
3. Severe AS: no plan for intervention.  
4. AF on Coumadin with multiple episodes of CVA and TIA.  
5. CVA, last a few months with severe deficits include dysphagia 
requiring a G-tube and problems with her balance. PEG removed 1 
week ago.  
3. OTHER PAST MEDICAL HISTORY:  
-CVA complicated by dysphagia, aspiration early ___  
PSH: s/p L lobectomy, R TKA, s/p appendectomy, hysterectomy  
 
Social History:
___
Family History:
Neg for dissections  

 
Physical Exam:
ON ADMISSION: 
==============================
VS: T97.7 BP148/61 RR18 98%3L NC ___ pain  
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
NECK: Supple with jvp at level of earlobe  
CARDIAC: ___ harsh systolic murmur, irregularly irreuglar  
CHEST: sternal scar, well healed  
LUNGS: resp unlabored, mild expir wheezing, crackles in b/l 
bases  
ABDOMEN: Soft, NTND. No HSM or tenderness. open peg tube site 
with minimal drainage and pink granulation tissue . no ttp.  
EXTREMITIES: No c/c/e.  
SKIN: Minimal stasis dermatitis of b/l ___  
PULSES: Distal pulses palpable and symmetric, warm extremities  

ON DISCHARGE: 
=================================
VS: T98.1F BP 127/55 HR 62 RR 18 97% 3L NC   
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
NECK: Supple with jvp 12 cm  
CARDIAC: ___ harsh systolic murmur, irregularly irreuglar  
CHEST: sternal scar, well healed  
LUNGS: resp unlabored, mild expir wheezing, improved crackles in 
b/l bases  
ABDOMEN: Soft, NTND. No HSM or tenderness. open peg tube site 
with minimal drainage and pink granulation tissue . no ttp.  
EXTREMITIES: No c/c/e.  
SKIN: Minimal stasis dermatitis of b/l ___  
PULSES: Distal pulses palpable and symmetric, warm extremities  
 
Pertinent Results:
ON ADMISSION: 
==============================
___ 07:05AM   GLUCOSE-117* UREA N-11 CREAT-0.6 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-31 ANION GAP-14
___ 07:05AM   estGFR-Using this
___ 07:05AM   ALT(SGPT)-18 AST(SGOT)-23 ALK PHOS-84 TOT 
BILI-1.0
___ 07:05AM   CALCIUM-9.2 PHOSPHATE-3.9 MAGNESIUM-1.7
___ 07:05AM   WBC-7.9 RBC-4.43 HGB-11.2 HCT-36.9 MCV-83 
MCH-25.3* MCHC-30.4* RDW-18.9* RDWSD-57.1*
___ 07:05AM   PLT COUNT-251
___ 07:05AM   ___ PTT-33.0 ___
___ 02:15AM   CK(CPK)-46
___ 02:15AM   cTropnT-<0.01
___ 02:15AM   CK-MB-2 proBNP-2099*
___ 11:38PM   cTropnT-<0.01
___ 11:38PM   DIGOXIN-0.6*
___ 11:38PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:38PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG
___ 11:38PM URINE  RBC-3* WBC-22* BACTERIA-NONE YEAST-NONE 
EPI-3

ON DISCHARGE: 
==============================
___ 06:15AM BLOOD WBC-5.9 RBC-4.16 Hgb-10.6* Hct-34.4 
MCV-83 MCH-25.5* MCHC-30.8* RDW-18.3* RDWSD-55.3* Plt ___
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD Glucose-104* UreaN-10 Creat-0.6 Na-142 
K-4.0 Cl-103 HCO3-32 AnGap-11
___ 07:05AM BLOOD ALT-18 AST-23 AlkPhos-84 TotBili-1.0
___ 02:15AM BLOOD cTropnT-<0.01
___ 02:15AM BLOOD CK-MB-2 proBNP-___*
___ 06:15AM BLOOD Calcium-9.2 Phos-3.8 Mg-1.8
___ 11:38PM BLOOD Digoxin-0.6*

IMAGING:
=========================
___ CXR 
Portable semi-upright radiograph of the chest demonstrates 
indistinct 
pulmonary vasculature and scattered septal line, with probable 
bilateral 
pleural effusions, consistent with pulmonary edema.  The cardiac 
silhouette is mildly enlarged.  Mediastinal clips are noted.  
There are no sternotomy wires. The left-sided pacemaker is seen 
with 1 lead terminating in the right atrium and 1 lead 
terminating in the right ventricle.  No definite consolidation 
is identified. 
  
IMPRESSION:  Pulmonary edema, slightly progressed since recent 
examination. 

___ CTA 
1.  No evidence of aortic dissection or pulmonary embolism. 
2. Findings consistent with pulmonary edema and heart failure.  
Infection is not entirely excluded. 

___. Calcific atherosclerosis at the right carotid bulb causing 
greater than 70% stenosis by is NASCET criteria.  There is 
central low density within the atheroma, which is a high-risk 
feature. 
2. Atherosclerosis at the left carotid bifurcation and bulb 
which demonstrates low-density, irregular surface, and contrast 
undercutting, which are high risk features. 
3. High-grade stenosis the left external carotid artery origin. 
4. Bilateral pleural effusions and pulmonary edema pattern 
within lung apices. 

___ ECG: 
Probably underlying atrial fibrillation. Ventricular paced 
rhythm with 
intermittent native conduction QRS complex. Inferior T wave 
inversions, most likely representing T wave memory. Compared to 
the previous tracing  
of ___ the heart rate is slower and the presence of 
natively conducted beats is more evident. 
Read by: ___. 
___ PR  QRS QT  QTc       P  QRS T 
67   439 88  ___   46 57 -___ with history of CAD s/p CABG ___ and LM/OM1 DES placed 
___, severe AS, AF on coumadin, CVA, multiple post-procedural 
TIA, s/p PEG removed one week ago presented as a transfer from 
___ for chest pain radiating to the back. She presented 
to ___ for drainage from the gastrostomy site. Patient 
developed severe chest pain ___ radiating to her back and 
hypertensive to 190's in the CT scanner was started on 
nitroglycerin, esmolol and morphine that relieved her chest 
pain. She presented to ___ chest pain free and normotensive 
for further management. CTA negative was negative for 
dissection.  

# Flash pulmonary edema:  On presentation to the ED, patient had 
elevated BNP, elevated JVP, crackles on pulmonary exam, and mild 
wheezing suggestive of cardiac wheeze and volume overload. CXR 
was performed that showed pulmonary edema and she was diuresed 
with total of 80 IV Lasix with good urine output. Patient was 
diuresed to net negative 1.5L.  She was started on ACE inhibitor 
and continued on 20 mg IV Lasix to control fluid status and 
blood pressure. TTE was performed demonstrating severe aortic 
stenosis unchanged from previous TTE in ___. Additionally 
pacemaker was interrogated and demonstrated normal pacer 
function with acceptable lead measurements and battery status; 
no arrhythmias. On day of discharge, foley was removed with good 
urine output, and patient was discharged on 20 mg PO Lasix daily 
to maintain current volume status and discharged on 5 mg 
lisinopril to decrease afterload. 

# Severe AS: Presented with flash pulmonary edema with harsh 
systolic murmur on exam.  TTE was performed demonstrating severe 
aortic stenosis unchanged from previous TTE in ___.
 
# Cartoid Artery Stenosis: Identified on CT of Neck, Calcific 
atherosclerosis at the right carotid bulb causing greater than 
70% stenosis by is NASCET criteria.  There is central low 
density within the atheroma, which is a high-risk feature and 
there is atherosclerosis at the left carotid bifurcation and 
bulb which demonstrates 
low-density, irregular surface, and contrast undercutting, which 
are high risk 
features and high-grade stenosis the left external carotid 
artery origin. Patient is currently anti-coagulated on warfarin, 
taking ASA 81 mg,  Clopidogrel 75 mg and atorvastatin 40 mg. Per 
outpatient cardiologist, patient is too high risk for additional 
procedures at this point in time.    

# AFIB on coumadin: CHADS2 4. While inpatient, patient's home 
dose digoxin 0.125 mg PO daily, metoprolol tartrate 25 mg PO BID 
and Coumadin 5 mg daily was continued;  patient remained in rate 
controlled Atrial fibrillation with heart rates of 70-80's with 
INR 2.3-2.6. 

# CVA and multiple TIA: Per OSH records, patient has had 
multiple TIAs, usually post-instrumentation when patient was 
required to be off of anticoagulation. Last event was late ___ 
after cardiac cath and sent placement; complicated by dysphagia 
requiring PEG tube placement, aspiration early ___. While 
inpatient, speech and swallow evaluated patient and cleared for 
regular diet, thin liquids by cup. She worked with ___ in house 
and patient was cleared to be discharged home with physical 
therapy that she already has in place. 

# Dysphagia: ___ CVA in ___ PEG tube was placed in ___ 
patient completed speech and swallow rehab and regained 
function; PEG tube removed 1 week prior to admission. Opening of 
previous site of PEG tube was draining yellowish fluid,  with 
mild tenderness to palpation over site. GI was consulted, 
evaluated PEG tube site and stated it was healing normally. 
Patient was started on Pantropazole 40 mg BID to decrease acid 
and therefore irritation to the area as the PEG tube site is 
healing.  

============================
Transitional Issues: 
============================
- Started patient on lisinopril 5 mg and 20 mg furosemide daily; 
please assess if these medications are appropriate. Please 
continue to monitor weight and fluid status.
- CT Neck showed severe carotid artery stenosis >70% on right 
with high risk features. Currently anticoagulated on warfarin, 
on high dose statin and clopdigrel/ASA. Per outside  
- Discharge weight: 62.0 kg 
- CODE: FULL CODE
- CONTACT: ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Sertraline 25 mg PO QAM 
3. TraZODone 25 mg PO QHS 
4. Furosemide 40 mg PO DAILY 
5. Metoprolol Tartrate 25 mg PO BID 
6. Warfarin 5 mg PO DAILY16 
7. Digoxin 0.125 mg PO DAILY 
8. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 40 mg PO QPM 
2. Clopidogrel 75 mg PO DAILY 
3. Digoxin 0.125 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Sertraline 25 mg PO QAM 
6. TraZODone 25 mg PO QHS 
7. Warfarin 5 mg PO DAILY16 
8. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once with breakfast 
and once with dinner Disp #*60 Tablet Refills:*0
9. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
10. Furosemide 40 mg PO DAILY 
11. Outpatient Lab Work
Lab: INR   ICD 9: ___
Date: ___ and ___
Dr. ___ 
___: ___
Fax: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
Flash pulmonary edema 
Severe aortic stenosis 
AFIB 
CAD 
HTN 
CVA 

SECONDARY:
s/p L lobectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ from ___ because you 
had chest pain, high blood pressure and fluid in your lungs. You 
were given medication (Lasix) to remove the fluid from your 
lungs. We completed an echocardiogram to evaluate the 
functioning of your heart. It showed that you have severe aortic 
stenosis unchanged from your previous study with Dr. ___ in 
___. You should follow up with Dr. ___ with the appointment 
below when you return to ___. 

We started a new medication to help control your blood pressure 
when you are active called lisinopril. Please talk to your 
cardiologist in ___ regarding this new medication. 

The GI team met with you and evaluated the site where your PEG 
tube was removed. It looked like it was healing appropriately. 
We started you on medication to block acid production in your 
stomach that should relieve the irritation around the opening.  
Please talk to your primary care physician about continuing this 
medication after the site heals. Additionally, you can rub 
Maalox on the site, which should also help relieve the 
irritation.

Additionally, you worked with physical therapy and 
speech/swallow team to ensure that you maintain your strength 
and agility. 

Please get your INR checked on ___ and ___.

Thank you for allowing us to participate in your care. 

___ care team
 
Followup Instructions:
___